US08097759B2
N-{3,5-Bis[(1,1-dimethyl)ethyl]phenyl}-2-hydroxy-5-methylbenzamide (Compound No. 176)
Using 5-methylsalicylic acid and 3,5-bis[(1,1-dimethyl)ethyl]aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-methylsalicylic acid | CC1=CC=C(C(C(=O)O)=C1)O | C8H8O3
reactant | 3,5-bis[(1,1-dimethyl)ethyl]aniline | CC(C)(C)C=1C=C(N)C=C(C1)C(C)(C)C | C14H23N
product | N-{3,5-Bis[(1,1-dimethyl)ethyl]phenyl}-2-hydroxy-5-methylbenzamide | Yield: 16.3% | CC(C)(C)C=1C=C(C=C(C1)C(C)(C)C)NC(C1=C(C=CC(=C1)C)O)=O | C22H29NO2
